US05376670
5-[3,5-Bis(1,1-dimethylethyl)-4-[(2-methoxyethoxy)methoxy]phenyl]-3H-1,2,4-triazole-3-thione
1,1'-Thiocarbonyldiimidazole (0.64 g, 0.0036 mole) is added portionwise to a stirred 0° C. solution of 3,5-bis(1,1-dimethylethyl)-4-[(2-methoxyethoxy)methoxy]benzene carboximidic acid hydrazide (1.0 g, 0.0028 mole) and triethylamine (0.43 ml, 0.003 mole) in tetrahydrofuran (5.0 ml). After the addition is complete the mixture is heated to reflux for 1.5 hours. The solution is cooled and concentrated in vacuo. The residue is dissolved in ether (20 ml) and the solution washed with aqueous 2M HCl, saturated aqueous NaHCO3, saturated aqueous NaCl, and dried over MgSO4. Filtration and concentration in vacuo gives 0.94 g (1.1 g theor., 86%) product after recrystallization from ethyl acetate/isopropyl ether, mp 187° C.

reactant | 1,1'-Thiocarbonyldiimidazole | 0.0036 mole, 0.64 g | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
reactant | 3,5-bis(1,1-dimethylethyl)-4-[(2-methoxyethoxy)methoxy]benzene carboximidic acid hydrazide | 0.0028 mole, 1.0 g | CC(C)(C)C=1C=C(C=C(C1OCOCCOC)C(C)(C)C)C(=N)NN | C19H33N3O3
reactant | triethylamine | 0.003 mole, 0.43 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 5.0 ml | O1CCCC1 | C4H8O
product | 5-[3,5-Bis(1,1-dimethylethyl)-4-[(2-methoxyethoxy)methoxy]phenyl]-3H-1,2,4-triazole-3-thione | CC(C)(C)C=1C=C(C=C(C1OCOCCOC)C(C)(C)C)C1=NC(N=N1)=S | C20H29N3O3S
